US04371711
Into 200 ml of chloroform, was dissolved 4.0 g of 4-hydroxy-5-propargyl-2-cyclopentenone. To the solution, was added 25 g of activated manganese dioxide and the mixture was stirred at room temperature for 4 hours. The reaction mixture was filtered and the residue on the filter was washed thoroughly with chloroform. The filtrate together with the washings was concentrated to obtain 3.6 g (91% yield) of 4-keto-5-propargyl-2-cyclopentenone, pale yellow in color.

reactant | 4-hydroxy-5-propargyl-2-cyclopentenone | 4.0 g | OC1C=CC(C1CC#C)=O | C8H8O2
catalyst | manganese dioxide | 25 g | [O-2].[O-2].[Mn+4]
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-keto-5-propargyl-2-cyclopentenone | 3.6 g, 91% yield | O=C1C=CC(C1CC#C)=O | C8H6O2
